US04826869
1-Butyl-2-(3'-ureidobenzyl)-5-propylpyrrole
A solution of 11.4 ml (148 mmol) of trifluoroacetic acid in 100 ml of methylene chloride was added dropwise to a mixture of 20 g (74 mmol) of 1-butyl-2-(3'-aminobenzyl)-5-propylpyrrole dissolved in 80 ml of methylene chloride, 20 ml of methanol, and 9.6 g (148 mmol) of sodium cyanate, at room temperature and under stirring. The reaction mixture was stirred for an hour further, poured into 500 ml of saturated sodium carbonate solution and extracted with 200 ml of methylene chloride and 200 ml of ethyl acetate. The combined extracts were washed with water, dried and evaporated under reduced pressure. The residue was purified by column chromatography on 500 g of silica gel, using methylene chloride-methanol (95:5) as eluant, to produce 21 g (91%) of the title compound, 1-butyl-2-(3'-ureidobenzyl)-5-propylpyrrole, which was recrystallized from acetone-hexane.

reactant | trifluoroacetic acid | 148 mmol, 11.4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-butyl-2-(3'-aminobenzyl)-5-propylpyrrole | 74 mmol, 20 g | C(CCC)N1C(=CC=C1CCC)CC1=CC(=CC=C1)N | C18H26N2
reactant | sodium cyanate | 148 mmol, 9.6 g | [O-]C#N.[Na+]
reactant | sodium carbonate | 500 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
product | 1-Butyl-2-(3'-ureidobenzyl)-5-propylpyrrole | 21 g, 91% | C(CCC)N1C(=CC=C1CCC)CC1=CC(=CC=C1)NC(=O)N | C19H27N3O
